US05304560
To a stirred solution of methyl 2-[N-{4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl}-N-ethoxycarbonylamino]-4-nitrobenzoate (1.58 g) in methanol (16 ml) was added 2N potassium hydroxide (5.0 ml). After stirring for 2 hours at 50° C., methanol was evaporated in vacuo. The residue was diluted with water, acidified with 3N hydrochloric acid, extracted with chloroform. The extract was washed with brine, dried over magnesium sulfate, and evaporated. Crude 2-[N-{4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl}-N-ethoxycarbonylamino]-4-nitrobenzoic acid (1.57 g) was obtained as an amorphous.

reactant | methyl 2-[N-{4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl}-N-ethoxycarbonylamino]-4-nitrobenzoate | 1.58 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN(C(=O)OCC)C1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C26H31N3O6
reactant | potassium hydroxide | 2N, 5.0 ml | [OH-].[K+]
solvent | methanol | 16 ml | CO | CH4O
product | 2-[N-{4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl}-N-ethoxycarbonylamino]-4-nitrobenzoic acid | 1.57 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN(C(=O)OCC)C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C25H29N3O6
